US04290952
cis-1-(3-Acetylthiopropanoyl)-5-(3,4-dimethoxyphenyl)proline
To a solution of cis-5-(3,4-dimethoxyphenyl)proline hydrochloride (8.0 g., 0.028 m) and sodium hydroxide (2.22 g., 0.055 m) in water (50 ml.) at 10° C., was slowly added 3-bromopropionyl chloride (2.80 ml., 0.028 m) along with sodium hydroxide (1.11 g., 0.028 m) in water (25 ml.), keeping pH between 7.5 and 9. This mixture was stirred at 25° C. overnight. Potassium thioacetate, prepared by mixing thiolacetic acid (1.50., 0.021 m) and potassium carbonate (1.75 g., 0.012 m) in water (15 ml.) was added to the reaction which was stirred overnight at 25° C. to afford the title compound, which was employed without isolation as the reactant in the following example.

reactant | cis-5-(3,4-dimethoxyphenyl)proline hydrochloride | 8.0 g | Cl.COC=1C=C(C=CC1OC)[C@H]1CC[C@H](N1)C(=O)O
reactant | sodium hydroxide | 2.22 g | [OH-].[Na+]
reactant | 3-bromopropionyl chloride | 2.80 ml | BrCCC(=O)Cl | C3H4BrClO
reactant | sodium hydroxide | 1.11 g | [OH-].[Na+]
reactant | Potassium thioacetate | C(C)(=S)[O-].[K+]
reactant | thiolacetic acid | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | potassium carbonate | 1.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | cis-1-(3-Acetylthiopropanoyl)-5-(3,4-dimethoxyphenyl)proline | C(C)(=O)SCCC(=O)N1[C@H](C(=O)O)CC[C@@H]1C1=CC(=C(C=C1)OC)OC | C18H23NO6S
